US04374248
A. 3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1-oxide
A solution of 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine (3.30 g; 15.4 mmoles) in 25 ml of methanol was added dropwise over a period of 14 minutes to a well stirred suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide (2.50 g; 15.4 mmoles) [prepared according to the procedure in Example 4, Step A] that was cooled to 12°-15° in an ice-water bath. The solution was stirred at ambient temperature for 1.5 hours to yield a methanolic solution of the title compound.

reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | 15.4 mmoles, 3.30 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | 15.4 mmoles, 2.50 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
solvent | methanol | 25 ml | CO | CH4O
product | 3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1-oxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(N=C1OC)=O | C13H20N4O3S2
